US07910561B2
4-(t-Butyldimethylsilyloxymethyl)benzaldehyde (Synthesis (1995), 12, 1529-33) (6.65 gm, 26 mmol) was dissolved in dry tetrahydrofuran (50 mL) and the solution cooled to −40° C. Benzyl magnesium chloride in diethyl ether (1 M, 35 mL, 35 mmol) was added slowly. The reaction was allowed to warm to 0° C. over three hours. The reaction was then quenched by the addition of ammonium chloride (2.3 gm, 43 mmol) in water (60 mL). The product was extracted into diethyl ether, washed with NaHCO3 solution, dried (over Na2SO4), and filtered. The solution was evaporated to give 1-[4-t-butyldimethylsilyloxymethyl)-phenyl]-2-phenylethanol as an oil which was used as is. 1H-NMR (500 MHz, CDCl3): δ 7.19-7.34 (9H, m), 4.90 (1H, dd, J=4.9, 8.3 Hz), 4.75 (2H, s), 2.98-3.07 (2H, dt), 0.95 (6H, s), 0.11 (9H, s).

reactant | 4-(t-Butyldimethylsilyloxymethyl)benzaldehyde | 26 mmol, 6.65 gm | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=O)C=C1 | C14H22O2Si
reactant | Benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | diethyl ether | 35 mmol, 1 M, 35 mL | C(C)OCC | C4H10O
reactant | ammonium chloride | 43 mmol, 2.3 gm | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 2-phenylethanol | C1(=CC=CC=C1)CCO | C8H10O
